US09422331B2
(S)-N-((2S,3S)-1-Acetyl-5-((1-(2-cyanophenyl)-1H-indazol-3-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide
To a rt solution of tert-butyl(S)-1-((2S,3S)-1-acetyl-5-((1-(2-cyanophenyl)-1H-indazol-3-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (79 mg, 122 μmol) in CH2Cl2 (486 μl) was added TFA (122 μl). The reaction was stirred for 1.5 h, then concentrated and purified by reverse phase preparative HPLC to provide, after extraction from sat. aq. NaHCO3, (S)-N-((2S,3S)-1-acetyl-5-((1-(2-cyanophenyl)-1H-indazol-3-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide (57.0 mg, 85%) as a white solid. MS m/z 550 (MH)+.

reactant | tert-butyl(S)-1-((2S,3S)-1-acetyl-5-((1-(2-cyanophenyl)-1H-indazol-3-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 122 μmol, 79 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=NN(C3=CC=CC=C13)C1=C(C=CC=C1)C#N)C=CC=C2 | C36H39N7O5
reactant | TFA | 122 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 486 μl | C(Cl)Cl | CH2Cl2
product | (S)-N-((2S,3S)-1-Acetyl-5-((1-(2-cyanophenyl)-1H-indazol-3-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)NC)=O)=O)CC1=NN(C3=CC=CC=C13)C1=C(C=CC=C1)C#N)C=CC=C2 | C31H31N7O3
